US07985764B2
A 300 mg portion of ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylthio)-1H-indole-5-carboxylate was dissolved in 3 ml of chloroform, and 483 mg of 3-chloroperbenzoic acid under ice-cooling was added, followed by stirring at the same temperature for 30 minutes and then at room temperature for 1 hour. A 10% sodium hydrogen sulfite aqueous solution was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium bicarbonate aqueous solution and saturated brine and then dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate:hexane:chloroform=0.2:1:1 to 0.3:1:1 to 0.4:1:1) to obtain 285 mg of ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylsulfonyl)-1H-indole-5-carboxylate as a pale green solid.

reactant | ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylthio)-1H-indole-5-carboxylate | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)OCC)SC)C)C=C1 | C20H20FNO2S
reactant | 3-chloroperbenzoic acid | 483 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(4-fluorobenzyl)-2-methyl-3-(methylsulfonyl)-1H-indole-5-carboxylate | 285 mg | FC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(=O)OCC)S(=O)(=O)C)C)C=C1 | C20H20FNO4S
